US06608212B1
20.0 mL (20.4 mmol) 1.02 M mesitylmagnesium bromide in THF was added over 10-15 minutes to a solution of 2.66 mL (20.0 mmol) 1-tetralone and 4.56 mL (22.0 mmol) diphenyl chlorophosphate in 4 mL THF at 0° C. The solution was stirred at 0° for 30 min, allowed to warm to room temperature, and then stirred for an additional 30 min. The reaction mixture was then treated with 0.140 g (1 mol%) dichlorobis(triphenylphosphine)palladium and warmed to 65°. 11.5 mL (24.0 mmol) 2.08 M phenylmagnesium chloride in THF was added over 5-10 minutes, resulting in a gentle reflux of the solvent. After stirring at 65° for 30 min, the mixture was cooled to room temperature and poured into a mixture of 3 N HCl (30 mL) and pentane (30 mL). The phases were separated, and the aqueous portion was extracted with pentane (25 mL). The combined organic phase was washed sequentially with 3 N HCl (15 mL), 3 N NaOH (twice, with 15 mL each time), and brine (20 mL). The resulting organic phase was dried (MgSO4), concentrated, and then distilled using a Kugelrohr apparatus (oven temp=120-150° C.); 0.1 torr) to provide 3.51 g 1-phenyl-3,4-dihydronaphthalene (85% yield on 1-tetralone).

reactant | mesitylmagnesium bromide | 20.4 mmol, 1.02 M, 20.0 mL | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | 1-tetralone | 20.0 mmol, 2.66 mL | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | diphenyl chlorophosphate | 22.0 mmol, 4.56 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | phenylmagnesium chloride | 24.0 mmol, 2.08 M, 11.5 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | HCl | 3 N, 30 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.140 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | pentane | 30 mL | CCCCC | C5H12
product | 1-phenyl-3,4-dihydronaphthalene | 3.51 g, 85% yield | C1(=CC=CC=C1)C1=CCCC2=CC=CC=C12 | C16H14
